US07112397B2
Synthesis of 4,5-dimethoxy-2-nitrobenzyl 3-(trimethoxysilyl)propyl ether
A 30-ml eggplant type flask was purged with nitrogen, and charged with 1.5 g (5.9 mmol) of allyl 4,5-dimethoxy-2-nitrobenzyl ether, 0.865 g (7.1 mmol) of trimethoxysilane, and an infinitesimal amount of hydrogen hexachloroplatinate(IV) hexahydrate (H2PtCl6·6H2O), followed by stirring at 37° C. for 30 minutes. Thereafter, the bath temperature was raised to 100° C., and the reaction was completed in 2 hours. The reaction mixture was purified by silica gel column chromatography using a medium-pressure column. Using a mixture of hexane, ethyl acetate and tetramethoxysilane (in a volume ratio of 100:20:1) as the eluent, 0.95 g (2.53 mmol) of the desired product was obtained in a 43% yield. Its Rf value (for the aforesaid eluent) was 0.19.

reactant | allyl 4,5-dimethoxy-2-nitrobenzyl ether | 5.9 mmol, 1.5 g | COC1=CC(=C(COCC=C)C=C1OC)[N+](=O)[O-] | C12H15NO5
reactant | trimethoxysilane | 7.1 mmol, 0.865 g | CO[SiH](OC)OC | C3H10O3Si
catalyst | hydrogen hexachloroplatinate(IV) hexahydrate | [H+].[H+].O.O.O.O.O.O.Cl[Pt-2](Cl)(Cl)(Cl)(Cl)Cl
product | 4,5-dimethoxy-2-nitrobenzyl 3-(trimethoxysilyl)propyl ether | 2.53 mmol, 0.95 g, 43% yield | CO[Si](CCCOCC1=C(C=C(C(=C1)OC)OC)[N+](=O)[O-])(OC)OC | C15H25NO8Si
